US07160882B2
b) tert-butyl {3-[2-(1-ethyl-1-hydroxy-propyl)-6-methoxy-phenylamino]-1,1-dimethyl-propyl}-carbamate
The product is obtained analogously to intermediate product 1b starting from 3-(2-amino-3-methoxy-phenyl)-pentan-3-ol and tert-butyl (1,1-dimethyl-3-oxo-propyl)-carbamate. The crude product is purified by column chromatography (silica gel, cyclohexane/EtOAc 4:1). Yield: 4.60 g (47%).

reactant | 3-(2-amino-3-methoxy-phenyl)-pentan-3-ol | NC1=C(C=CC=C1OC)C(CC)(CC)O | C12H19NO2
reactant | tert-butyl (1,1-dimethyl-3-oxo-propyl)-carbamate | CC(CC=O)(C)NC(OC(C)(C)C)=O | C10H19NO3
product | tert-butyl {3-[2-(1-ethyl-1-hydroxy-propyl)-6-methoxy-phenylamino]-1,1-dimethyl-propyl}-carbamate | C(C)C(CC)(O)C1=C(C(=CC=C1)OC)NCCC(C)(C)NC(OC(C)(C)C)=O | C22H38N2O4
